US06166208
Step B: Preparation of Methyl 5-iodo-2-isothiocyanatobenzoate
To 20 g (0.064 mol) of methyl 2-amino-5-iodobenzoate hydrochloride was added 720 mL of toluene, 180 mL of water, 49 g (0.593 mol) of sodium bicarbonate, and 13.2 mL (0.181 mol) of thiophosgene. The biphasic mixture was stirred at room temperature overnight, diluted with 400 mL of water, and the phases were separated. The organic phase was washed with brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to deliver 21.43 g of the title compound, which was used without further purification, 1H NMR (300 MHz, CDCl3): δ3.97 (s,3H); 7.02 (d,1H); 7.81 (dd,1H); 8.30 (d,1H). An analytical sample was prepared by treating 0.30 g of the crude material with 5 mL of n-propanol, followed by the dropwise addition of water. The ensuing precipitate was filtered to deliver 259 mgs of purified methyl 5-iodo-2-isothiocyanatobenzoate, m.p. 60-62° C.

reactant | methyl 2-amino-5-iodobenzoate hydrochloride | 0.064 mol, 20 g | Cl.NC1=C(C(=O)OC)C=C(C=C1)I
reactant | toluene | 720 mL | C1(=CC=CC=C1)C | C7H8
reactant | sodium bicarbonate | 0.593 mol, 49 g | C([O-])(O)=O.[Na+]
reactant | thiophosgene | 0.181 mol, 13.2 mL | C(=S)(Cl)Cl | CCl2S
solvent | water | 400 mL | O | H2O
solvent | water | 180 mL | O | H2O
solvent | n-propanol | 5 mL | C(CC)O | C3H8O
product | Methyl 5-iodo-2-isothiocyanatobenzoate | IC=1C=CC(=C(C(=O)OC)C1)N=C=S | C9H6INO2S
